US05218124
N-Hydroxy-N,α-dimethyl-4'-[(1-methyl-1H-benzimidazol-2-yl)methoxy]-[1,1'-biphenyl]-4-acetamide, hydrochloride salt
A solution containing N-hydroxy-N,α-dimethyl-4'-[(1-methyl-1H-benzimidazol-2-yl)methoxy]-[1,1'-biphenyl]-4-acetamide (0.2 g, 0.48 mmol) in warm methanol (100 mL) is treated with 1M hydrogen chloride in diethyl ether (3 mL). The solution is concentrated under reduced pressure to a solid residue. This material is crystallized from a mixture of ethanol and diethyl ether to give 0.2 g (92.2%) of white crystalline product, m.p. 131° C. (dec.).

reactant | N-hydroxy-N,α-dimethyl-4'-[(1-methyl-1H-benzimidazol-2-yl)methoxy]-[1,1'-biphenyl]-4-acetamide | 0.48 mmol, 0.2 g | ON(C(C(C1=CC=C(C=C1)C1=CC=C(C=C1)OCC1=NC2=C(N1C)C=CC=C2)C)=O)C | C25H25N3O3
reactant | hydrogen chloride | 1M | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
solvent | diethyl ether | 3 mL | C(C)OCC | C4H10O
product | N-Hydroxy-N,α-dimethyl-4'-[(1-methyl-1H-benzimidazol-2-yl)methoxy]-[1,1'-biphenyl]-4-acetamide, hydrochloride salt | 0.2 g, 92.2% | Cl.ON(C(C(C1=CC=C(C=C1)C1=CC=C(C=C1)OCC1=NC2=C(N1C)C=CC=C2)C)=O)C | InChI=1S/C25H25N3O3.ClH/c1-17(25(29)28(3)30)18-8-10-19(11-9-18)20-12-14-21(15-13-20)31-16-24-26-22-6-4-5-7-23(22)27(24)2;/h4-15,17,30H,16H2,1-3H3;1H
